US08975277B2
4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-1-hydroxy-1-methyl-ethyl]-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester (9.80 g) in tetrahydrofuran (6 mL) is added dropwise to an ice-cold solution of methyl magnesium bromide (1.4 mol/L in toluene/tetrahydrofuran 75:25; 74.0 mL). The reaction mixture is stirred for 30 min before the cooling bath is removed. After stirring the mixture at room temperature for 1 h, the mixture is poured into aqueous NH4Cl solution. The resulting mixture is extracted with ethyl acetate, and the combined extracts are dried (MgSO4) and concentrated. The residue containing significant amounts of starting material is azeotropically dried using toluene and resubmitted to the reaction conditions and work-up procedure described. The crude product is purified by preparative HPLC (column: Waters X-Bridge C18; mobile phase: water+0.125% NH4OH/methanol 90:10→100:0) to give the title compound. Mass spectrum (ESI+): m/z=433/435/437 (Cl+Br) [M+H]+.

reactant | 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester | 9.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)=O | C17H22BrClN2O3
reactant | methyl magnesium bromide | 1.4 mol/L, 74.0 mL | C[Mg]Br
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-1-hydroxy-1-methyl-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)(C)O | C18H26BrClN2O3
